US05260438
A mixture of (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid allyl ester (1.00 g), dimethylformamide (10 ml) and ammonium hydrogenfluoride (459 mg) is stirred at room temperature for three days. To the reaction solution is added a phosphate buffer (pH 7.0), and the mixture is extracted with ethyl acetate. The organic layer is washed with a phosphate buffer, and the washing and the phosphate buffer layer are combined, and extracted with ethyl acetate. The organic layers are combined, washed, dried and concentrated under reduced pressure. The resulting residue is crystallized from a mixture of ethyl acetate and n-hexane (2:1) to give (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid allyl ester (657 mg). The filtrate of the above crystallization is concentrated under reduced pressure, and the residue is purified by silica gel flash column chromatography (solvent; chloroform:ethanol= 30:1), and further crystallized from a mixture of ethyl acetate and n-hexane (2:1) to give (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid ally ester (24 mg).

reactant | (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid allyl ester | 1.00 g | C(C=C)OC(=O)C1=C([C@@H]([C@H]2N1C([C@@H]2[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C)S[C@@H]2CC(NC2)=S | C23H36N2O4S2Si
reactant | ammonium hydrogenfluoride | 459 mg | F.[NH4+]
reactant | phosphate | pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid allyl ester | 657 mg | C(C=C)OC(=O)C1=C([C@@H]([C@H]2N1C([C@@H]2[C@@H](C)O)=O)C)S[C@@H]2CC(NC2)=S | C17H22N2O4S2
